US08106055B2
Preparation of 3-oxocyclopentanecarboxylic Acid Ethyl Ester
A solution of cyclopentanone-3-carboxylic acid (5.00 g, 39 mmol), caesium carbonate (12.82 g, 39 mmol) and ethyl iodide (9.12 g, 4.75 ml, 58.5 mmol) in DMF (50 ml) was stirred at RT for 18 h. The mixture was then concentrated i. vac., the residue was taken up in toluene, the mixture was concentrated again and 2 N hydrochloric acid and EtOAc were then added. The aq. phase was extracted with EtOAc (3×30 ml) and the combined organic phases were washed with aq. sodium thiosulfate soln. The organic phase was dried with Na2SO4 and concentrated i. vac.

reactant | cyclopentanone-3-carboxylic acid | 39 mmol, 5.00 g | C1CC(=O)CC1C(=O)O | C6H8O3
reactant | caesium carbonate | 39 mmol, 12.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl iodide | 58.5 mmol, 4.75 ml, 9.12 g | C(C)I | C2H5I
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-oxocyclopentanecarboxylic Acid Ethyl Ester | C(C)OC(=O)C1CC(CC1)=O | C8H12O3
